US07820654B2
Step (i). Synthesis of [4-chloro-6-(3-methanesulfonyl-phenyl)-pyrimidin-2-yl]-(4-trifluoromethoxy-phenyl)-amine
The title compound was prepared by reacting (4,6-dichloro-pyrimidin-2-yl)-(4-trifluoromethoxy-phenyl)-amine (0.3 g, 0.92 mmol) with 3-methanesulfonyl-phenyl boronic acid (0.37 g, 1.85 mmol) in presence of Pd(OAc)2 (7 mg, 0.02 mmol) and sodium carbonate (0.78 g, 7.4 mmol) in a solvent DMF (10 mL) at 80° C. for 12 hours, followed by work up and column purification.

reactant | (4,6-dichloro-pyrimidin-2-yl)-(4-trifluoromethoxy-phenyl)-amine | 0.92 mmol, 0.3 g | ClC1=NC(=NC(=C1)Cl)NC1=CC=C(C=C1)OC(F)(F)F | C11H6Cl2F3N3O
reactant | 3-methanesulfonyl-phenyl boronic acid | 1.85 mmol, 0.37 g | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | sodium carbonate | 7.4 mmol, 0.78 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(OAc)2 | 0.02 mmol, 7 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [4-chloro-6-(3-methanesulfonyl-phenyl)-pyrimidin-2-yl]-(4-trifluoromethoxy-phenyl)-amine | ClC1=NC(=NC(=C1)C1=CC(=CC=C1)S(=O)(=O)C)NC1=CC=C(C=C1)OC(F)(F)F | C18H13ClF3N3O3S
